Ngspice template file for GGI_TLM - ngspice linked simulation
*
* GGI_TLM link port    1 using nodes    1 and   0
*
* Voltage source with series resistance: equivalent circuit of TLM link
 Vtlm1        1001           0  DC  0.0
 Rtlm1        1001           1  #Z0_TLM
* 
* GGI_TLM link port    2 using nodes    2 and   0
*
* Voltage source with series resistance: equivalent circuit of TLM link
 Vtlm2        1002           0  DC  0.0
 Rtlm2        1002           2  #Z0_TLM
* 
* GGI_TLM link port    3 using nodes    3 and   0
*
* Voltage source with series resistance: equivalent circuit of TLM link
 Vtlm3        1003           0  DC  0.0
 Rtlm3        1003           3  #Z0_TLM
* 
* GGI_TLM link port    4 using nodes    4 and   0
*
* Voltage source with series resistance: equivalent circuit of TLM link
 Vtlm4        1004           0  DC  0.0
 Rtlm4        1004           4  #Z0_TLM
* 
* 
* Voltage source required for the voltage source controlling the breakpoint time
Vbreak time_node 0 DC 0.0
* 

* Model to be included in the GGI_TLM simulation for port 1, connected to node 1
* in this case a voltage source with series resistance
Rs1     2001   1   100.0
Vs1     2001   0   EXP( 0.0     1.0    0.000000E+00    2.000000E-010    1.200000E-09    2.000000E-010 )
*
* Model to be included in the GGI_TLM simulation for port 2, connected to node 2
* in this case a voltage source with series resistance
Rs2     2002   2   100.0
Vs2     2002   0   EXP( 0.0     1.0    0.000000E+00    2.000000E-010    1.200000E-09    2.000000E-010 )
*
*
* Model to be included in the GGI_TLM simulation for port 3, connected to node 3
* in this case a diode with series resistance
Diode3   2003   3   Dmod
Rl3      2003   0   100.0
*
* Model to be included in the GGI_TLM simulation for port 4, connected to node 4
* in this case a diode with series resistance
Diode4   2004   4   Dmod
Rl4      2004   0   100.0
*
.model DMOD D ( is=1e-12 )
*
*
* Control for transient simulation
.TRAN #dt_out  #tmax_ngspice 0.0 #dt_ngspice  UIC
*
.END
